US04179452
To the solution of 3α,6α,24-trihydroxy-5β-cholestan (1.5 g) in pyridine (20 ml) was added phosphorus oxychloride (3 ml). After completion of the reaction, the reaction mixture was poured into ice-water and extracted with diethyl ether. The ether layer was washed with an aqueous solution of hydrochloric acid and then with water, dried over magnesium sulfate and evaporated to dryness. The residue was chromatographed on silica gel to give 0.6 g of 3-chlorocholest-5,24-diene.

reactant | 3α,6α,24-trihydroxy-5β-cholestan | 1.5 g | O[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C27H48O3
reactant | phosphorus oxychloride | 3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-chlorocholest-5,24-diene | 0.6 g | ClC1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=C(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H43Cl
